US07456164B2
N-methyl-N-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetra-hydropyran-4-ylmethyl}-methanesulfonamide
To a stirred solution of methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}amine (200 mg, 0.60 mmol) and triethylamine (102 μL, 0.72 mmol) in anhydrous dichloromethane (8 mL) under nitrogen atmosphere was added dropwise a solution of mesyl chloride (56 μL, 0.72 mmol) in anhydrous dichloromethane (2 mL). After stirring overnight, the reaction mixture was quenched with a saturated aqueous solution of NaHCO3. The organic layer was separated, washed with water then dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound (175 mg, 71%). 1H NMR (400 MHz, CDCl3) δ 7.22 (d, 2H), 6.92-6.90 (d, 2H), 4.03 (t, 2H), 3.83-3.78 (m, 2H), 3.52 (t, 2H), 3.16 (s, 2H), 2.68 (s, 3H), 2.64 (t, 2H), 2.54 (m, 4H), 2.19-2.15 (m, 5H), 2.05-1.91 (m, 4H), 1.81-1.78 (m, 4H).

reactant | methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}amine | 0.60 mmol, 200 mg | CNCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H32N2O2
reactant | triethylamine | 0.72 mmol, 102 μL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.72 mmol, 56 μL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-methyl-N-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetra-hydropyran-4-ylmethyl}-methanesulfonamide | 175 mg, 71% | CN(S(=O)(=O)C)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C21H34N2O4S
